Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:5],4.11952040444
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8],5.27861759449
[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11],-0.7864869656100001
[O:1]=[C:2]([C:3]#[C:4])[C:7]([H:8])([H:9])[H:10].[O:5][H:6]>>[O:1]=[C:2]([C:3]#[C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-6.93453653197
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])[H:11],4.55307889104
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][O:2][C@:3]([H:4])([C:5]#[C:6])[C:10]([H:11])([H:12])[H:13],7.46191858225
[H:1][C:2]([H:3])=[C:4][C:13]([C:10]([C:5][C:6]([H:7])([H:8])[H:9])([H:11])[H:12])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]1=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-3.38660624251
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:10]([C:9]#[C:7][H:8])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]12[C:7]([H:8])[C:9]1[C:10]2([H:11])[H:12],-1.73094316375
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[O:7].[H:8],1.34687241539
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[O:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-2.62275468102
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3],5.19247883536
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],1.0791632866299998
[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-4.2158102503900015
[C:2]#[C:3][C:4]([H:5])[C:6][O:7][H:8].[O:1]>>[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6][O:7][H:8],-7.234039140599999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][O:2],5.40243981863
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:3][C:4][H:5],3.20460897709
[O:1]=[C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])\[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2],1.45699318521
[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],-4.93009224156
[C:7]([H:8])[H:9].[O:1]=[C:2]([H:3])[C:4][O:5][H:6]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-7.971253262929999
[C:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.66838182825
[H:1][C:2]([H:3])=[C:5]([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.89594533222
[O:1]=[C:2]([O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13],1.96466206191
[H:1][C:2]#[C:3][O:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4],2.39949168821
[C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9],-6.27981062989
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.83116065058
[O:1]=[C:2]([C:3](=[C:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1]=[C:2]([C:3](=[C:4][H:5])[O:6][H:7])[C:8]([H:9])[H:10],4.26943151365
[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],2.3937511061000003
[C:8]([H:9])#[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],1.265498416
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[O:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9].[O:10],7.9843871421
